US08669234B2
2-Bromo-3,5-dimethoxy-benzoic acid methyl ester (5.2 g) was dissolved in DMF (16 mL), and Cu powder (2.4 g) was added . After stirring at 150° C. for 3 days, the mixture was filtered and evaporated under vacuum. The crude material was subjected to silica gel chromatography using effluent of 30-60% ethyl acetate and hexanes. The fractions containing product were combined and the solvent was removed under reduced pressure to provide 4,6,4′,6′-tetramethoxy-biphenyl-2,2′-dicarboxylic acid dimethyl ester (2.5 g, 68%) as a clear oil.

reactant | 2-Bromo-3,5-dimethoxy-benzoic acid methyl ester | 5.2 g | COC(C1=C(C(=CC(=C1)OC)OC)Br)=O | C10H11BrO4
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 4,6,4′,6′-tetramethoxy-biphenyl-2,2′-dicarboxylic acid dimethyl ester | 2.5 g, 68% | COC(=O)C=1C(=C(C=C(C1)OC)OC)C=1C(=CC(=CC1OC)OC)C(=O)OC | C20H22O8
